US04150137
A mixture of 0.05 g of sodium in 20 ml of cyclopropylmethyl alcohol was heated at 50° C. for 5 hours. To the mixture was added 2.2 g of 2-(p-isobutylphenyl)propionic acid methyl ester and the whole was refluxed for 10 hours. After the reaction was completed, the solvent was removed by distillation under reduced pressure to leave a residue, to which was added water. The resulting mixture was extracted with ether, and the extract was washed sufficiently with water and then dehydrated. The ether was removed by distillation to leave a residual oily product. This product was then distilled under reduced pressure to yield 1.38 g of 2-(p-isobutylphenyl)propionic acid cyclopropylmethyl ester as a colorless oil, boiling at 109°-111° C./1 mmHg. Analysis-Calculated for C17H24O2 : C, 78.42; H, 9.29. Found: C, 78.19; H, 9.22.

reactant | sodium | 0.05 g | [Na] | Na
reactant | 2-(p-isobutylphenyl)propionic acid methyl ester | 2.2 g | COC(C(C)C1=CC=C(C=C1)CC(C)C)=O | C14H20O2
reactant | water | O | H2O
reactant | cyclopropylmethyl alcohol | 20 ml | C1(CC1)CO | C4H8O
product | 2-(p-isobutylphenyl)propionic acid cyclopropylmethyl ester | 1.38 g | C1(CC1)COC(C(C)C1=CC=C(C=C1)CC(C)C)=O | C17H24O2
